US07514448B2
N-(3-Methoxybenzyl)-5-bromothiophene-3-carboxamide
5-Bromothiophene-3-carboxylic acid (70%) (200 mg, 0.6 mmol of monobromide) was dissolved in DMF with 3-methoxybenzyl amine (0.3 g, 2.2 mmol), EDCI (0.42 g, 2.2 mmol), and HOBt hydrate (0.06 g, 0.4 mmol). The reaction mixture was stirred at room temperature for 3 days, diluted with EtOAc and the organic layer washed with 10% citric acid, saturated sodium bicarbonate, and brine. The organic layer was then dried over sodium sulfate and concentrated to an oil, which was purified by column chromatography on silica (10 to 30 5 EtOAc/hexanes) to give the product as a colorless oil, 195 mg, 0.6 mmol, 100%. 1H NMR 500 MHz (CDCl3) 7.81 (1H, s), 7.35 (1H, s), 7.28 (1H, m), 6.93 (1H, m), 6.87 (2H, m), 6.23 (1H, br s), 4.57 (2H, d), 3.84 (3H, s).

reactant | 5-Bromothiophene-3-carboxylic acid | 0.6 mmol, 200 mg | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | 3-methoxybenzyl amine | 2.2 mmol, 0.3 g | COC=1C=C(CN)C=CC1 | C8H11NO
reactant | EDCI | 2.2 mmol, 0.42 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt hydrate | 0.4 mmol, 0.06 g | C1=CC=C2C(=C1)N=NN2O.O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-Methoxybenzyl)-5-bromothiophene-3-carboxamide | COC=1C=C(CNC(=O)C2=CSC(=C2)Br)C=CC1 | C13H12BrNO2S
